datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12](C)C)=[O:62].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CC[O:72][C:61]([CH:10]([CH:11]=[N+:12](C)C)[CH:20]([C:21](C[N+]1=CC=C(N2CCOCC2)C=C1)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH:10]([Cl:20])[S:61]2(=[O:62])=[O:82].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10=20;20,21=21,22;22,23=23"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82]>>C[C:81]([CH:10]([CH:20]1CCC[C:22]([O-:23])=[CH:21]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82] 10=20;20,21=21,22;22,23=23"
CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=C1 10=20
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.CC12C3(C)C4(C)C5(C)C1(C)[Cr-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10]>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.CC12C3(C)C4(C)C5(C)C1(C)[Cr-2:11]2345(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[C:61]([CH:10]([CH2:20][C:31]12C3(C4=CC=CC=C4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])[C:71](C)=[O:72])=[O:62] 10=20
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CC(C)(C)C[Si:11](C)(C)[H:10]>>C1=CC=C([N:31]=[C:20]([H:10])[O-:21])C=C1.CC(C)(C)C[Si+:11](C)C 10,11=10,20;20,21=21"
"CO[C-:10]([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>CO[C:10]([CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C 10=20;20,21=21"
"C1C[NH:10]CCO1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([NH+:10]2CCOCC2)N2N=N[N:35]=[C:34]21 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])C1.C[C:10](C)=[CH:11][O:12][Si:63](C)(C)C>>C[C:10](C)([CH:11]=[O+:12][Si:63](C)(C)C)[C:20]1([O-:21])CCC1 10,11=10,20;12=11,12;20,21=21"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].C[N:12](C)[N:11]=[CH2:10]>>C[N+:12](C)=[N:11][CH2:10][CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[O:12][C:11]1=[CH:10][S:61][CH:62]=[CH:63]1.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[O+:12]=[C:11]1[CH:10]([CH:20]2[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[S:61][CH:62]=[CH:63]1 10,11=10,20;12=11,12"
"C1C[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CCO1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH2:10][C:11](=[N+:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12.[CH:10]1=[CH:11][CH:12]=[CH:13][S:14]1>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[S+:14]2)[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC1(C)[O:82][C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.CCC[C:20](C)=[O:21]>>CCC[C:20](C)([C:10]1([I+:11]C2=CC=CC=C2)[C:71](=[O:72])[O:82]C(C)(C)[O:102][C:91]1=[O:92])[O-:21] 10,11=10,20;20,21=21"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC1=CC=CC=C1[P:10](C1=CC=CC=C1C)C1=C(C)C=CC=C1>>CC1=CC=C([S:32]([N-:21][CH:20]([P+:10](C2=CC=CC=C2C)(C2=CC=CC=C2C)C2=C(C)C=CC=C2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
